US05089654
To a solution of 3.48 9 of 2'-carboxymethoxy-4'-(3-methyl-2-butenyloxy)acetophenone and 2.80 g of 4-n-heptylbenzaldehyde in 120 ml of ethanol was added 3.5 g of potassium hydroxide, and the mixture was stirred for 5 hours. After neutralization with dilute sulfuric acid, the resulting precipitate was collected by filtration, washed with water, dried and recrystallized from ethanol to give 4.10 g of 2'-carboxymethoxy-4-n-heptyl-4'-(3-methyl-2-butenyloxy)chalcone as pale yellow needles.

reactant | 2'-carboxymethoxy-4'-(3-methyl-2-butenyloxy)acetophenone | C(=O)(O)COC1=C(C=CC(=C1)OCC=C(C)C)C(C)=O | C15H18O5
reactant | 4-n-heptylbenzaldehyde | 2.80 g | C(CCCCCC)C1=CC=C(C=O)C=C1 | C14H20O
reactant | potassium hydroxide | 3.5 g | [OH-].[K+]
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 2'-carboxymethoxy-4-n-heptyl-4'-(3-methyl-2-butenyloxy)chalcone | 4.10 g | C(=O)(O)COC1=C(C(C=CC2=CC=C(C=C2)CCCCCCC)=O)C=CC(=C1)OCC=C(C)C | C29H36O5
